US05106871
Then, 10 ml of dimethylformamide was dropped into a mixture of 2.0 g of 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(3-methoxy-4-methoxymethoxyphenyl)-1-propanone and 0.2 g of sodium hydride, and the mixture was stirred for 60 minutes. Then, 0.5 ml of methyl α-bromoacetate was added to the mixture at 0° C., and the mixture was stirred for 45 minutes. After the reaction, the solvent was removed from the reaction liquid mixture by distillation, and the residue was dried under reduced pressure to obtain substantially quantitatively 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(3-methoxy-4-methoxymethoxyphenyl)-1-propanone in the form of a colorless transparent oil.

reactant | 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(3-methoxy-4-methoxymethoxyphenyl)-1-propanone | 2.0 g | OC1=C(C(=CC(=C1CCC(C)C)OC)OC)C(CCC1=CC(=C(C=C1)OCOC)OC)=O | C25H34O7
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | methyl α-bromoacetate | 0.5 ml | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(3-methoxy-4-methoxymethoxyphenyl)-1-propanone | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC(=C(C=C1)OCOC)OC)=O)OCC(=O)OC)CCC(C)C | C28H38O9
